US09023849B2
3-Iodo-1H-pyrazolo[3,4-d]pyrimidine
520 mg (4.331 mmol) of 1H-pyrazolo[3,4-d]pyrimidine and 1.461 g (6.496 mmol) of N-iodosuccinimide were dissolved in 10 ml of DMF and the mixture was heated at 80° C. for 3 h. After cooling, the mixture was concentrated on a rotary evaporator and the residue was stirred with dichloromethane, filtered off with suction and dried under high vacuum. 569 mg (53% of theory) of the target compound were obtained.

reactant | 1H-pyrazolo[3,4-d]pyrimidine | 4.331 mmol, 520 mg | N1N=CC=2C1=NC=NC2 | C5H4N4
reactant | N-iodosuccinimide | 6.496 mmol, 1.461 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 3-Iodo-1H-pyrazolo[3,4-d]pyrimidine | IC1=NNC2=NC=NC=C21 | C5H3IN4
